US05686424
A solution of N-[2-(biphenyl-4-yl)-2-oxoethyl] L-proline (50 mg, 0.16 mmol, 1.0 eq), N-ethylmorpholine (125 uL, 0.98 mmol, 6 eq) in acetonitrile (0.5 mL) was cooled to 0° C. and treated with a 50% solution of 1-n-propylphosphonic acid cyclic anhydride in dichloromethane (170 uL, 0.27 mmol, 1.6 eq) followed by L-isoleucine tert-butylamide (49 mg, 0.19 mmol, 1.1 eq). Purification by HPLC provided 12 mg (16%) of L-isoleucine, N-[1-(2-(biphenyl-4-yl)-2-oxoethyl)-L-prolyl] tert-butylamide.

reactant | N-[2-(biphenyl-4-yl)-2-oxoethyl] L-proline | 0.16 mmol, 50 mg, 1.0 eq | C1(=CC=C(C=C1)C(CN1[C@H](C(=O)O)CCC1)=O)C1=CC=CC=C1 | C19H19NO3
reactant | N-ethylmorpholine | 0.98 mmol, 125 uL, 6 eq | C(C)N1CCOCC1 | C6H13NO
reactant | dichloromethane | 0.27 mmol, 170 uL, 1.6 eq | ClCCl | CH2Cl2
reactant | L-isoleucine tert-butylamide | 0.19 mmol, 49 mg, 1.1 eq | C(C)(C)(C)NC([C@@H](N)[C@@H](C)CC)=O | C10H22N2O
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-(biphenyl-4-yl)-2-oxoethyl)-L-prolyl] tert-butylamide | 12 mg, 16% | C1(=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)C(C)(C)C)CCC1)=O)C1=CC=CC=C1 | C29H39N3O3
